US07727988B2
5-phenyl-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo-[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride (E9)
A mixture of (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (Prep4, 40 mg) 1-(3-chloropropyl)-5-phenyl-2,4(1H,3H)-pyrimidinedione (Prep 4, 55 mg), TEA (0.050 mL) and NaI cat. Amount, in DMF (0.5 mL) was heated at 100° C. for 24 hours. Aqueous saturated NH4Cl solution was then added to the mixture and then it was extracted with DCM. The organic phase was dried and concentrated in vacuo. The crude product was purified by a SCX cartridge to give 77 mg of the title compound as free base. HCl (1M in diethyl ether) was added to a solution of the free base in dichloromethane. The mixture was evaporated and the residue triturated with diethyl ether to give the title compound (78 mg).

reactant | (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 40 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | 1-(3-chloropropyl)-5-phenyl-2,4(1H,3H)-pyrimidinedione | 55 mg | ClCCCN1C(NC(C(=C1)C1=CC=CC=C1)=O)=O | C13H13ClN2O2
reactant | NaI | [Na+].[I-]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 5-phenyl-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo-[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione hydrochloride | 77 mg | Cl.C1(=CC=CC=C1)C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C25H24F3N3O2.ClH/c26-25(27,28)19-9-7-18(8-10-19)24-13-20(24)14-30(16-24)11-4-12-31-15-21(22(32)29-23(31)33)17-5-2-1-3-6-17;/h1-3,5-10,15,20H,4,11-14,16H2,(H,29,32,33);1H/t20-,24+;/m0./s1
